US09078888B2
Synthesis of 8-hydroxy-6-methoxy-2-(4-methoxyphenyl)isoquinolin-1(2H)-one
6,8-Dimethoxy-2-(4-methoxyphenyl)isoquinolin-1(2H)-one (2.25 g, 7.23 mmol) and LiCl (6.12 g, 144.54 mmol) were placed in a dry, argon flushed 150 mL three-necked flask fitted with a stirring bar and reflux condenser. Anhydrous DMF (30 mL) was added via a syringe. The reaction mixture was heated to 140° C. under vacuum for 20 h. Then, the reaction was quenched by addition of 30 mL of 2N HCl solution. The solution was extracted with EtOAc (3×30 mL). The extracts were combined and dried over anhydrous MgSO4. The solvent was removed under reduced pressure. The residue was purified by flash column chromatography (silica-gel, EtOAc) to give a white solid product, 1.80 g, 83.7% yield. 1H NMR (DMSO-d6, 300 MHz): δ 12.98 (s, 1H), 7.42-7.35 (m, 3H), 7.06 (d, 2H, J=9.0 Hz), 6.70-6.67 (m, 2H), 6.45 (d, 1H, J=2.1 Hz), 3.85 (s, 3H), 3.82 (s, 3H).

reactant | 6,8-Dimethoxy-2-(4-methoxyphenyl)isoquinolin-1(2H)-one | 7.23 mmol, 2.25 g | COC=1C=C2C=CN(C(C2=C(C1)OC)=O)C1=CC=C(C=C1)OC | C18H17NO4
reactant | LiCl | 144.54 mmol, 6.12 g | [Li+].[Cl-]
product | 8-hydroxy-6-methoxy-2-(4-methoxyphenyl)isoquinolin-1(2H)-one | 83.7% yield | OC=1C=C(C=C2C=CN(C(C12)=O)C1=CC=C(C=C1)OC)OC | C17H15NO4
